US04117149
2,4,6-Trihydroxy-phenyl 4-fluoro-benzyl-ketone (1.31 g, 5 mmole) was dissolved in dimethylacetamide (5.0 ml) and borontrifluoride etherate (2.1 g, 15 mmole) was added cautiously. This solution was then added to a solution of methane-sulphonyl chloride (1.71 g, 15 mmole) in dimethylacetamide (5 ml) and the resulting mixture was heated on the steam batch for 75 minutes. The reaction mixture was poured into cold water (75 ml) and the crystalline diacetate was collected by filtration. The product was hydrolysed by heating in 50% methanolic hydrochloric acid (20 ml, 5N) at reflux for 1 hour, the solution was poured into excess cold water and the crystalline precipitate was collected and dried to give 5,7-dihydroxy-3-p-fluoro-phenyl-2-methyl-4-oxo-4H-benzopyran, m.p. 222°-223°. NMR of the diacetate confirmed that cyclisation had taken place. The product was identical on T.L.C. with a sample prepared via the standard Allen-Robinson synthesis.

reactant | 2,4,6-Trihydroxy-phenyl 4-fluoro-benzyl-ketone | 5 mmole, 1.31 g | OC1=C(C(=CC(=C1)O)O)C(C1=CC=C(C=C1)F)C(=O)C(C1=CC=C(C=C1)F)C1=C(C=C(C=C1O)O)O | C27H20F2O7
reactant | borontrifluoride etherate | 15 mmole, 2.1 g | B(F)(F)F.CCOCC
reactant | methane-sulphonyl chloride | 15 mmole, 1.71 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | water | 75 ml | O | H2O
solvent | dimethylacetamide | 5.0 ml | CC(=O)N(C)C | C4H9NO
solvent | dimethylacetamide | 5 ml | CC(=O)N(C)C | C4H9NO
product | 5,7-dihydroxy-3-p-fluoro-phenyl-2-methyl-4-oxo-4H-benzopyran | OC1=CC(=CC2=C1C(C(=C(O2)C)C2=CC=C(C=C2)F)=O)O | C16H11FO4
